US20010056123A1
Step 1: Synthesis of 3-(2-(t-butoxycarbonylamino)ethoxy)-4-(3-hydroxypropyl)benzonitrile:
1.1 g (3.04 mmol) of ethyl 3-[2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyanophenyl]propionate was dissolved in 15 ml of tetrahydrofuran (dehydrated). 1.5 ml (2.3 mmol) of 2 M Lithium borohydride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. The solvent was evaporated. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl 3-[2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyanophenyl]propionate | 3.04 mmol, 1.1 g | C(C)(C)(C)OC(=O)NCCOC1=C(C=CC(=C1)C#N)CCC(=O)OCC | C19H26N2O5
reactant | Lithium borohydride | 2.3 mmol, 2 M, 1.5 ml | [BH4-].[Li+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(2-(t-butoxycarbonylamino)ethoxy)-4-(3-hydroxypropyl)benzonitrile | C(C)(C)(C)OC(=O)NCCOC=1C=C(C#N)C=CC1CCCO | C17H24N2O4
